US04417012
Decamethylene bis(thiosulphate)diammonium salt was prepared from decamethylene bis(thiosulphate) barium salt (itself prepared from decamethylene bis(thiosulphate) disodium salt by a procedure similar to that of Example 11) by essentially the same method as that described in Part (A) but using ammonium sulphate in place of cobalt sulphate.

reactant | decamethylene bis(thiosulphate) barium salt | [Ba+2].S(=S)(=O)(OCCCCCCCCCCOS(=S)(=O)[O-])[O-]
reactant | decamethylene bis(thiosulphate) disodium salt | [Na+].[Na+].S(=S)(=O)(OCCCCCCCCCCOS(=S)(=O)[O-])[O-]
reactant | ammonium sulphate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
catalyst | hexamethylene bis(thiosulphate) cobalt salt | [Co+2].S(=S)(=O)(OCCCCCCOS(=S)(=O)[O-])[O-]
product | Decamethylene bis(thiosulphate)diammonium salt | [NH4+].[NH4+].S(=S)(=O)(OCCCCCCCCCCOS(=S)(=O)[O-])[O-] | InChI=1S/C10H22O6S4.2H3N/c11-19(12,17)15-9-7-5-3-1-2-4-6-8-10-16-20(13,14)18;;/h1-10H2,(H,11,12,17)(H,13,14,18);2*1H3
